US04825005
A 1 liter reactor is charged with 150 ml of methyl isobutyl ketone, 73.1 g of 3-diethylaminophenol and 153.3 g of ground potassium carbonate. The mixture is stirred for 30 minutes, then 72.7 g of ethyl bromide are added and the autoclave is closed. The reaction mixture is heated first for 3 hours to 115°-129° C. and then for a further 5 hours at 140°-142° C. (pressure: 4 bar). After cooling to c. 25° C. and addition of water, the product is isolated with the organic phase, which is washed with water and concentrated by evaporation, to give 80.67 g (97.2% yield) of 3-diethylaminophenetol with a titre of 94.8%.

reactant | methyl isobutyl ketone | 150 ml | C(C(C)C)C(=O)C | C6H12O
reactant | 3-diethylaminophenol | 73.1 g | C(C)N(C=1C=C(C=CC1)O)CC | C10H15NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 72.7 g | C(C)Br | C2H5Br
solvent | water | O | H2O
product | 3-diethylaminophenetol | 80.67 g, 97.2% yield | C(C)N(C=1C=C(C=CC1)OCC)CC | C12H19NO
